US07317009B2
A solution of 5-[7-ethyl-2-methyl-4-(2-vinyl-4-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoic acid (15 mg) in MeOH was added 10% Pd/C (2 mg). The mixture was stirred under hydrogen atomosphere (1 atm) for 6 h. The reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo. The residue was triturated with hexane to give 5-[7-ethyl-4-(2-ethyl-4-pyridinyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoic acid (14 mg) as an yellow solid.

reactant | 5-[7-ethyl-2-methyl-4-(2-vinyl-4-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoic acid | 15 mg | C(C)C1=CC=C2N1N=C(C(=C2C2=CC(=NC=C2)C=C)CCCCC(=O)O)C | C22H25N3O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 2 mg | [Pd] | Pd
product | 5-[7-ethyl-4-(2-ethyl-4-pyridinyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]pentanoic acid | 14 mg | C(C)C1=CC=C2N1N=C(C(=C2C2=CC(=NC=C2)CC)CCCCC(=O)O)C | C22H27N3O2
